US08232546B2
Air in a 200 ml three-neck flask equipped with a dropping funnel and a reflux tube was replaced with nitrogen, and THF (31 ml) was added into the three-neck flask. While the flask was being cooled in ice bath, TiCl4 (0.35 ml, 3.2 mmol) was dropped into the flask, and subsequently zinc powder (209 mg, 3.2 mmol) was added therein. An obtained reaction solution was refluxed for 2 hours. After that, an anhydrous THF (15 ml) solution of 6-methyl-3-methylthio-2-naphthaldehyde (230 mg, 1.1 mmol) was slowly dropped into the reaction solution, and the reaction solution was refluxed for 20 hours. The reaction solution was then cooled down to a room temperature, a saturated sodium carbonate aqueous solution and chloroform were added thereto and stirred for 19 hours, and the reaction solution was filtrated so that an insoluble solid was removed. An obtained filtrate solution was extracted with chloroform, and a resultant organic layer was dried with anhydrous magnesium sulfate. A solvent was then removed therefrom by use of a rotary evaporator. An obtained yellow solid was separated and purified by silica gel column chromatography (methylene chloride solvent, column diameter: 3 cm, column length: 20 cm) so as to obtain 1,2-bis(6-methyl-3-methylthio-2-naphthyl)ethylene (131 mg, 0.33 mmol, 62%) as a yellow solid.

reactant | THF | 31 ml | C1CCOC1 | C4H8O
reactant | THF | 15 ml | C1CCOC1 | C4H8O
reactant | 6-methyl-3-methylthio-2-naphthaldehyde | 1.1 mmol, 230 mg | CC=1C=C2C=C(C(=CC2=CC1)C=O)SC | C13H12OS
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | TiCl4 | 3.2 mmol, 0.35 ml | Cl[Ti](Cl)(Cl)Cl
catalyst | zinc | 3.2 mmol, 209 mg | [Zn] | Zn
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1,2-bis(6-methyl-3-methylthio-2-naphthyl)ethylene | 0.33 mmol, 131 mg, 62% | CC=1C=C2C=C(C(=CC2=CC1)C=CC1=CC2=CC=C(C=C2C=C1SC)C)SC | C26H24S2
